US08217066B2
Step 1: (E)-3-[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-acrylic acid methyl ester:
To a solution of sodium hydride (60% in mineral oil, 0.471 g, 11.03 mmol) in THF (10 mL) at 0° C. was added trimethyl phosphonoacetate (1.1 mL, 7.58 mmol). Additional THF (15 mL) was added to facilitate stirring and the solution was warmed to room temperature over 15 minutes. After cooling to 0° C., 5-(4-bromo-phenyl)-3-methyl-isoxazole-4-carbaldehyde (1.834 g, 6.89 mmol) in THF (8 mL) was added and the reaction was stirred at room temperature for 10 minutes. The mixture was extracted with EtOAc and aqueous NH4Cl, dried over MgSO4, filtered and concentrated. The residue was purified by silica gel chromatography to give the title compound.

reactant | sodium hydride | 11.03 mmol, 0.471 g | [H-].[Na+]
reactant | trimethyl phosphonoacetate | 7.58 mmol, 1.1 mL | COC(=O)CP(=O)(OC)OC | C5H11O5P
reactant | 5-(4-bromo-phenyl)-3-methyl-isoxazole-4-carbaldehyde | 6.89 mmol, 1.834 g | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C=O | C11H8BrNO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | (E)-3-[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-acrylic acid methyl ester | COC(\C=C\C=1C(=NOC1C1=CC=C(C=C1)Br)C)=O | C14H12BrNO3
